US05182263
A solution of 1.471 g of (S)-alpha-[[(1,1-dimethyl-ethoxy)carbonyl]amino]-4-[2-(1,1-dimethylethoxy)-2-oxoethyl]-benzenepropanoic acid methyl ester in 25 mL of methanol and 5 mL of 1N sodium hydroxide solution was stirred at room temperature for 2 hours. The mixture was acidified with a slight excess of hydrochloric acid, was diluted with 100 mL of ether, and was washed with water and saturated sodium chloride solution. The residue obtained after filtration and evaporation was chromatographed over 100 g of silica gel, eluting with 40:59:0.5 ethyl acetate-hexane-acetic acid. The product containing fractions were combined, evaporated, diluted with toluene and evaporated finally under high vacuum to give 1.105 g of (S)-alpha-[[(1,1-dimethylethoxy)carbonyl]amino]-4-[2-(1,1-dimethylethoxy)-2-oxoethyl]benzenepropanoic acid [α]D +21.41 (ethanol).

reactant | (S)-alpha-[[(1,1-dimethyl-ethoxy)carbonyl]amino]-4-[2-(1,1-dimethylethoxy)-2-oxoethyl]-benzenepropanoic acid methyl ester | 1.471 g | COC([C@H](CC1=CC=C(C=C1)CC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=O | C21H31NO6
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 25 mL | CO | CH4O
solvent | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
solvent | ether | 100 mL | CCOCC | C4H10O
product | (S)-alpha-[[(1,1-dimethylethoxy)carbonyl]amino]-4-[2-(1,1-dimethylethoxy)-2-oxoethyl]benzenepropanoic acid | 1.105 g | CC(C)(OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)CC(=O)OC(C)(C)C)C | C20H29NO6
